US06586475B1
Ethyl 7-[(2-aminoethyl)(methyl)amino]heptanoate
To a solution of ethyl 7-[methyl-[2-[(2,2,2-trifluoroacetyl)amino]ethyl]amino]heptanoate (4.89 g) in ethanol (80 ml) in an ice bath was added 10% aqueous potassium carbonate (30 ml) and stirring was continued for 20 hr. The reaction mixture was concentrated and the residue was dissolved in ethyl acetate. The insoluble material was removed by filtration and the filtrate was concentrated to obtain the titled compound (3 g)

reactant | ethyl 7-[methyl-[2-[(2,2,2-trifluoroacetyl)amino]ethyl]amino]heptanoate | 4.89 g | CN(CCCCCCC(=O)OCC)CCNC(C(F)(F)F)=O | C14H25F3N2O3
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | Ethyl 7-[(2-aminoethyl)(methyl)amino]heptanoate | 3 g | NCCN(CCCCCCC(=O)OCC)C | C12H26N2O2
